US05021440
To a solution of 0.271 g (0.00196 mol) of 5-mercapto-1-methyltetrazole sodium salt hydrate in 30 mL of absolute ethanol was added 0.50 g (0.0020 mol) of 1,3-dimethyl-2-[(3-chloro-2-oxopropyl)thio]- 1H-imidazolium chloride whereupon a white precipitate formed immediately. The precipitate was removed by filtration and was recrystallized from ethanol to obtain the desired 1,3-dimethyl-2-({3-[(1-methyl-1H-tetrazol-5-yl)thio]-2-oxopropyl}thio)-1H-imidazolium chloride, m.p. 196-197° C.

reactant | 5-mercapto-1-methyltetrazole sodium salt hydrate | 0.00196 mol, 0.271 g | O.[Na].SC1=NN=NN1C
reactant | 1,3-dimethyl-2-[(3-chloro-2-oxopropyl)thio]- 1H-imidazolium chloride | 0.0020 mol, 0.50 g | [Cl-].C[NH+]1C(N(C=C1)C)SCC(CCl)=O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 1,3-dimethyl-2-({3-[(1-methyl-1H-tetrazol-5-yl)thio]-2-oxopropyl}thio)-1H-imidazolium chloride | [Cl-].C[NH+]1C(N(C=C1)C)SCC(CSC1=NN=NN1C)=O | InChI=1S/C10H16N6OS2.ClH/c1-14-4-5-15(2)10(14)19-7-8(17)6-18-9-11-12-13-16(9)3;/h4-5,10H,6-7H2,1-3H3;1H
